US07041674B2
8.3.: 9-methyl-9-azatricyclo[3.3.1.0*2.4*]non-7-yl biphenyl-2-ylcarbamate methobromide
0.35 g of 9-methyl-9-azatricyclo[3.3.1.0*2.4*]non-7-yl biphenyl-2-ylcarbamate hydrochloride was dissolved in water, made basic with 10% sodium carbonate solution, and extracted with dichloromethane. The organic phase was dried over magnesium sulfate, filtered, and evaporated to dryness. The residue was dissolved in 10 mL acetonitrile, and after the addition of 1.2 g of 50% methyl bromide solution in acetonitrile, stirred for 30 days at 75° C. in a sealed pressure vessel. The solution was evaporated to dryness and the residue was recrystallized from acetonitrile. Yield: 0.16 g of white crystals (39% of theory); melting point: 142° C.-144° C.

reactant | 9-methyl-9-azatricyclo[3.3.1.0*2.4*]non-7-yl biphenyl-2-ylcarbamate hydrochloride | 0.35 g | Cl.C1(=C(C=CC=C1)NC(OC1CC2C3CC3C(C1)N2C)=O)C2=CC=CC=C2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 9-methyl-9-azatricyclo[3.3.1.0*2.4*]non-7-yl biphenyl-2-ylcarbamate | C1(=C(C=CC=C1)NC(OC1CC2C3CC3C(C1)N2C)=O)C2=CC=CC=C2 | C22H24N2O2
